US07723356B2
Fi) 2-Bromo-N-(5-methyl-isoxazol-3-yl)-acetamide
To a stirred solution of 5-methyl-isoxazol-3-ylamine (4.0 g, 40.8 mmol) and triethylamine (6.8 ml, 50 mmol) in chloroform (20 ml) cooled to −40° C., is added bromoacetyl bromide (3.9 ml, 44.9 mmol) in chloroform (20 ml). The reaction mixture is stirred at −40° C. for 30 minutes and then allowed to warm to room temperature. The resultant suspension is filtered, washed with DCM and dried in vacuo to yield the titled compound.

reactant | 5-methyl-isoxazol-3-ylamine | 40.8 mmol, 4.0 g | CC1=CC(=NO1)N | C4H6N2O
reactant | triethylamine | 50 mmol, 6.8 ml | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl bromide | 44.9 mmol, 3.9 ml | BrCC(=O)Br | C2H2Br2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-N-(5-methyl-isoxazol-3-yl)-acetamide | BrCC(=O)NC1=NOC(=C1)C | C6H7BrN2O2
